US06660744B1
A solution of cis 3-((benzyloxy)methyl)-1-cyclobutanol (2.50 g, 0.0130 mol) in pyridine (50 mL) was cooled to 0° C. Methanesulfonyl chloride (1.21 mL, 1.79 g, 0.0126 mol) was added dropwise, keeping the temperature below 2° C. The mixture was stirred for four hours, and then poured into ice water (100 mL) and extracted with ethyl ether (2×50 mL). The combined organic layers were washed with water (3×50 mL) and brine (50 mL). The organic layer was dried over magnesium sulfate and the solvent was removed in vacuo to give cis 3-[(benzyloxy)methyl]cyclobutyl methanesulfonate (2.73 g, 0.0101 mol) as a yellow oil.

reactant | cis 3-((benzyloxy)methyl)-1-cyclobutanol | 0.0130 mol, 2.50 g | C(C1=CC=CC=C1)OC[C@H]1C[C@H](C1)O | C12H16O2
reactant | Methanesulfonyl chloride | 0.0126 mol, 1.21 mL, 1.79 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | cis 3-[(benzyloxy)methyl]cyclobutyl methanesulfonate | 0.0101 mol, 2.73 g | CS(=O)(=O)O[C@@H]1C[C@@H](C1)COCC1=CC=CC=C1 | C13H18O4S
